US08492378B2
4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid
A mixture of methyl 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoate (204 mg, 0.610 mmol), 1 M aqueous sodium hydroxide solution (3 mL), tetrahydrofuran (6 mL) and methanol (6 mL) was stirred at 60° C. for 24 hr. After cooling, the reaction mixture was poured into water, and acidified with 1M hydrochloric acid. The precipitate was collected by filtration, dried, and recrystallized from ethanol to give the title compound (163 mg, yield 83%) as colorless crystals.

reactant | methyl 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoate | 0.610 mmol, 204 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C(=O)OC)C=C2)C1 | C19H14N2O4
reactant | sodium hydroxide | 1 M, 3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 6 mL | CO | CH4O
product | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid | 163 mg, yield 83% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C(=O)O)C=C2)C1 | C18H12N2O4
